US04621084
To a suspension of aluminum chloride (91.8 g) in carbon disulfide (200 ml) was added 2-bromopropionyl bromide (50 g) and 2-benzothiazolinone (20 g) and the resulting solution was refluxed for 6 hours with stirring. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo to give a residue, which was washed with diisopropyl ether and recrystallized from a mixture of ethyl acetate and diethyl ether to give 5-(2-bromopropionyl)-2-benzothiazolinone (32.3 g).

reactant | aluminum chloride | 91.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromopropionyl bromide | 50 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | 2-benzothiazolinone | 20 g | S1C(NC2=C1C=CC=C2)=O | C7H5NOS
solvent | carbon disulfide | 200 ml | C(=S)=S | CS2
product | 5-(2-bromopropionyl)-2-benzothiazolinone | 32.3 g | BrC(C(=O)C=1C=CC2=C(NC(S2)=O)C1)C | C10H8BrNO2S
